US06489487B1
A mixture of 624 mg (2.0 mmol) of 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 299 of the present invention), 700 mg (6.3 mmol) of 3-(trimethylsilyl)-1-propyne, 63 mg (0.095 mmol) of PdCl2(PPh3)2, 32 mg (0.17 mmol) of copper (I) iodide, 104 mg (0.40 mmol) of triphenylphosphine and 1.0 g of triethylamine in 6 ml of acetonitrile was stirred at 80° C. under an atmosphere of nitrogen for 9 hours. After cooling to room temperature, the reaction mixture was diluted with tert-butyl methyl ether, washed with water, dried and concentrated. The residue was subjected to silica gel column chromatography (eluted with hexane:ethyl acetate=2:1) to obtain 0.30 g (0.68 mmol) of 4-{5-(3-trimethylsilyl-1-propynyl)-2-methylbenzyl}-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one (the compound 527 of the present invention).

reactant | 4-(5-bromo-2-methylbenzyl)-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 2.0 mmol, 624 mg | BrC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C | C12H14BrN3O2
reactant | 3-(trimethylsilyl)-1-propyne | 6.3 mmol, 700 mg | C[Si](CC#C)(C)C | C6H12Si
reactant | triphenylphosphine | 0.40 mmol, 104 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
catalyst | PdCl2(PPh3)2 | 0.095 mmol, 63 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.17 mmol, 32 mg | [Cu]I
product | 4-{5-(3-trimethylsilyl-1-propynyl)-2-methylbenzyl}-5-methoxy-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.68 mmol, 0.30 g | C[Si](CC#CC=1C=CC(=C(CN2C(N(N=C2OC)C)=O)C1)C)(C)C | C18H25N3O2Si
